US07846929B2
3-(2-Chloro-4-morpholinothieno[3,2-d]pyrimidin-6-yl)benzoic acid (60 mg) was reacted with N,N-dimethylethlenediamine via General Procedure B to yield 3-(2-chloro-4-morpholinothieno[3,2-d]pyrimidin-6-yl)-N-(2-dimethylamino)ethyl)benzamide. Crude 3-(2-chloro-4-morpholinothieno[3,2-d]pyrimidin-6-yl)-N-(2-dimethylamino)ethyl)benzamide (73 mg) was coupled to 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-indazole 7 via General Procedure A to yield 16 mg of 340. MS (Q1) 528.0 (M)+

reactant | 3-(2-Chloro-4-morpholinothieno[3,2-d]pyrimidin-6-yl)benzoic acid | 60 mg | ClC=1N=C(C2=C(N1)C=C(S2)C=2C=C(C(=O)O)C=CC2)N2CCOCC2 | C17H14ClN3O3S
reactant | N,N-dimethylethlenediamine | CN(CCN)C | C4H12N2
product | benzamide | C(C1=CC=CC=C1)(=O)N | C7H7NO
